US07981903B2
A mixture of 1-[(diethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (200 mg, 0.72 mmol) and 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (330 mg, 0.71 mmol) and a 4 N HCl solution in dioxane (0.7 mL, 2.87 mmol) in 2,2,2-trifluoroethanol (10 mL) was heated for 8 h in a sealed vessel at 80° C. After allowing to cool to rt half of the reaction mixture was diluted with THF (80 mL) and a 27% aqueous NH4OH solution (80 mL). The reaction mixture was stirred for 3 h and concentrated. The residue was taken up into CH2Cl2 (200 mL), concentrated onto Celite and purified by silica gel chromatography using 20% 0.5 M NH3 in dioxane/THF. The product was dissolved in THF (10 mL) and THF (20 mL) and treated with a solution of sodium methoxide (0.5M in MeOH, 4 mL, 2 mmol). The reaction mixture was stirred for 2 days, concentrated onto Celite, and purified by silica gel chromatography using 4% MeOH (containing 0.2% NH3)/CH2Cl2 then triturated using Et2O (15 mL) to obtain 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide as a yellow solid (41 mg, 20% for 3 steps). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.99 (t, J=6.68 Hz, 6H), 2.58 (br s, 4H), 3.12 (t, J=8.15 Hz, 2H), 3.77 (s, 3H), 4.24 (t, J=8.15 Hz, 2H), 6.22 (s, 1H), 6.86 (t, J=9.43 Hz, 1H), 6.96 (s, 2H), 7.31 (q, J=7.94 Hz, 1H), 7.61 (s, 1H), 8.02 (s, 1H), 8.11 (s, 1H), 8.53 (d, J=8.24 Hz, 1H), 8.60 (s, 1H), 10.56 (s, 1H), 11.29 (s, 1H) a CH2 signal with 2 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=547.38.

reactant | 1-[(diethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 0.72 mmol, 200 mg | C(C)N(CC)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C15H23N3O2
reactant | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.71 mmol, 330 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F | C20H15ClFN5O3S
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.87 mmol, 0.7 mL | O1CCOCC1 | C4H8O2
reactant | NH4OH | 80 mL | [NH4+].[OH-]
reactant | sodium methoxide | 2 mmol, 0.5M, 4 mL | C[O-].[Na+]
solvent | 2,2,2-trifluoroethanol | 10 mL | FC(CO)(F)F | C2H3F3O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[(2-{[1-(N,N-diethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)OC)CC | C28H31FN8O3
